US04495354
Preparation of hexahydro-2-methyl-6,8(1H,7H)-isoquinolinedione
A 250 ml three necked flask, equipped with magnetic stirrer, reflux condenser and nitrogen inlet was charged with 80 ml ethanol. Thereafter, 2.28 g of sodium metal, freshly cut, was added and the mixture stirred till all the sodium had dissolved. Then, 12.33 g of diethylmalonate in 6 ml of ethanol, and 9.74 g of 1-(1,2,5,6-tetrahydro-1-methyl-3-pyridinyl)ethanone (arecolone) in 6 ml of ethanol, were added to the warm solution and the resulting solution was stirred and heated to reflux for 5 hours. Then, 10.2 g of 85% potassium hydroxide pellets were added and the mixture heated to reflux for four hours. During this period a heavy precipitate formed. With the aid of 50 ml water, the mixture was transferred into a 500 ml flask and concentrated at 30° and 20 mm of pressure. The residue was again concentrated from 50 ml water. It was then taken up in 100 ml water. 45 ml 12N hydrochloric acid were added and the solution was heated to reflux for 2 hours. It was then cooled and concentrated on a rotovap at 40° and 20 mm of pressure.

reactant | sodium | 2.28 g | [Na] | Na
reactant | diethylmalonate | 12.33 g | C(C)C(C(=O)[O-])(C(=O)[O-])CC
reactant | 1-(1,2,5,6-tetrahydro-1-methyl-3-pyridinyl)ethanone | 9.74 g | CN1CC(=CCC1)C(C)=O | C8H13NO
reactant | potassium hydroxide | 10.2 g | [OH-].[K+]
solvent | ethanol | 6 ml | C(C)O | C2H6O
solvent | ethanol | 6 ml | C(C)O | C2H6O
solvent | ethanol | 80 ml | C(C)O | C2H6O
solvent | water | 50 ml | O | H2O
product | hexahydro-2-methyl-6,8(1H,7H)-isoquinolinedione | CN1CC2C(CC(CC2CC1)=O)=O | C10H15NO2
